US05616601
Step 1: Preparation of 4-methyl-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide
To a suspension of 4-(methylsulfonyl)aniline (10 mmol) in toluene (100 mL), trimethylaluminum (2M solution in toluene, 15 mmol) is added over 15 minutes. The reaction mixture is warmed to room temperature and stirred for 2.5 hours. A solution of 4-methylbenzonitrile (20 mmol) in toluene (50 mL) is added over 10 minutes and the reaction mixture is heated to 80°-85° C. After 20 hours, the reaction mixture is cooled to room temperature and poured over a slurry of silica gel in chloroform. After filtration, the residue is washed with a mixture of methylene chloride/methanol (2/1). The combined filtrates are concentrated in vacuo and the resulting yellowish solid is stirred with a mixture of hexane/ether (2/1, 1000 mL). The intermediate is filtered and washed with more of hexane/ether (2/1). The pale yellow solid 4-methyl-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide is used in the next reaction without further purification.

reactant | 4-(methylsulfonyl)aniline | 10 mmol | CS(=O)(=O)C1=CC=C(N)C=C1 | C7H9NO2S
reactant | trimethylaluminum | 15 mmol, 2M | C[Al](C)C
reactant | 4-methylbenzonitrile | 20 mmol | CC1=CC=C(C#N)C=C1 | C8H7N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-methyl-N-[4-(methylsulfonyl)phenyl]benzenecarboximidamide | CC1=CC=C(C=C1)C(NC1=CC=C(C=C1)S(=O)(=O)C)=N | C15H16N2O2S
